US07345180B2
4-Methoxybenzothiazole-6-carboxylic acid
The 4-amino-5-mercapto-3-methoxybenzoic acid (670 mg) obtained above was heated at 50° C. in 90% formic acid (6.0 ml), and zinc powder (15 mg) was added thereto. The mixture was stirred for 2 hours at 100° C. and then cooled to room temperature, and precipitated crystals were collected by filtration, washed with water and dried under reduced pressure to give the title compound (470 mg, Y.:67%) as white crystals.

reactant | 4-amino-5-mercapto-3-methoxybenzoic acid | 670 mg | NC1=C(C=C(C(=O)O)C=C1S)OC | C8H9NO3S
reactant | formic acid | 6.0 ml | C(=O)O | CH2O2
catalyst | zinc | 15 mg | [Zn] | Zn
product | 4-Methoxybenzothiazole-6-carboxylic acid | 470 mg, 67% | COC1=CC(=CC2=C1N=CS2)C(=O)O | C9H7NO3S
